* C:\Users\Dino\Desktop\ECG-EMG Active Capacitive Electrodes\Simulations\LTSpice\LPF.asc
R1 N001 Vin 42.2k
R2 N004 N001 267k
C1 N004 Vofs 10n
C2 N002 N001 10n
R3 N002 N006 9k
R4 Vofs N006 1k
R5 N003 N002 22.6k
R6 N005 N003 499k
C3 N005 Vofs 10n
C4 LPF_Out N003 10n
R7 LPF_Out N007 9k
R8 Vofs N007 1k
V1 2.5V 0 2.5
V2 Vin 0 SINE(2.5 0.01 100 0) AC 1
V3 5V 0 5
R9 LPF_Out 0 10k
XU3 N008 Vofs 5V 0 Vofs LT1112
R10 5V N008 100k
R11 N008 0 100k
XU1 N004 N006 5V 0 N002 ADA4096
XU2 N005 N007 5V 0 LPF_Out ADA4096
* HPF, 150 Hz f_upper
.ac dec 100 0.01 10k
;tran 0 1 0.01 0.1
.lib ADA4096.lib
.lib LTC.lib
.backanno
.end
